US07166648B2
To a mixture of 70 g of 2,4-pentandione and 1.72 g of trioctyl phosphine, 45 g of ethyl acrylate was added dropwise over 40 minutes, keeping the temperature at 0–5° C. by cooling. After stirring for 65 hours, 2 ml of acetic acid and 150 ml of diethyl ether were added, and the solution was extracted with an aqueous sodium carbonate solution and water. The organic layer was dried, and 4-acetyl-5-oxohexanoic acid ethyl ester was isolated by fractional distillation.

reactant | 2,4-pentandione | 70 g | CC(CC(C)=O)=O | C5H8O2
reactant | trioctyl phosphine | 1.72 g | C(CCCCCCC)P(CCCCCCCC)CCCCCCCC | C24H51P
reactant | ethyl acrylate | 45 g | C(C=C)(=O)OCC | C5H8O2
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 4-acetyl-5-oxohexanoic acid ethyl ester | C(C)OC(CCC(C(C)=O)C(C)=O)=O | C10H16O4
